US06852736B2
A solution of 0.4 g of 4-benzyloxy-3-methylsulfinylphenol pmb (1.05 mmol) in 40 ml of tetrahydrofuran is cooled to −50° C. and 0.784 ml of a dimolar solution of lithium diisopropylamide (1.57 mmol) in tetrahydrofuran is then added. The reaction mixture is stirred for 15 minutes and 0.13 ml of methyl iodide (1.1 mmol) is added. After stirring for 15 minutes, methanol is added and the solvents are evaporated off under reduced pressure. The 4-benzyloxy-3-ethylsulfinylphenol pmb is obtained in the form of a white solid (0.3 g, 72%) after purification on silica gel (40 g SiO2, eluent: 4/1 heptane/ethyl acetate)

reactant | 4-benzyloxy-3-methylsulfinylphenol | 0.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)O)S(=O)C | C14H14O3S
reactant | lithium diisopropylamide | 1.57 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 1.1 mmol, 0.13 ml | CI | CH3I
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-benzyloxy-3-ethylsulfinylphenol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)O)S(=O)CC | C15H16O3S
